US08314097B2
5-(4-Cyano-2-fluorophenyl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-5-carboxylic acid (0.15 g, 0.279 mmol) is suspended in CH2Cl2 (3 mL) and DMF (0.01 ml) and cooled to 0° C. A solution of oxalyl chloride (0.31 mL, 2 M) in CH2Cl2 is added dropwise. After 1 h i-PrOH (3 mL) is added. After 2 h Et3N is added until basic and the solution is concentrated. The resulting slurry is dissolved in CH2Cl2, washed with aqueous saturated NaHCO3/H2O (1:1) and brine, then dried over Na2SO4. After concentration, the residue is purified by HPLC (2-38% MeCN/H2O containing 0.1% TFA) to give 5-(4-cyano-2-fluorophenyl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-5-carboxylic acid isopropyl ester as solid. MS (ESI) m/z 314.0 (M+H); 1H NMR (400 MHz, CD3CN) (TFA salt) δ ppm 1.22 (d, J=6.06 Hz, 3 H), 1.23 (d, J=6.06 Hz, 3 H), 3.01-3.18 (m, 3 H), 3.38-3.45 (m, 1 H), 5.08-5.18 (m, 1 H), 7.20 (s, 1 H), 7.34 (app t, J=8.08 Hz, 1 H), 7.62-7.68 (m, 2 H) 8.52 (s, 1 H).

reactant | 5-(4-Cyano-2-fluorophenyl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-5-carboxylic acid | 0.279 mmol, 0.15 g | C(#N)C1=CC(=C(C=C1)C1(CCC=2N1C=NC2)C(=O)O)F | C14H10FN3O2
reactant | DMF | 0.01 ml | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 2 M, 0.31 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | i-PrOH | 3 mL | CC(C)O | C3H8O
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | Et3N | CCN(CC)CC | C6H15N
product | 5-(4-cyano-2-fluorophenyl)-6,7-dihydro-5H-pyrrolo[1,2-c]imidazole-5-carboxylic acid isopropyl ester | C(C)(C)OC(=O)C1(CCC=2N1C=NC2)C2=C(C=C(C=C2)C#N)F | C17H16FN3O2
